US05861417
1.5 Synthesis of 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dimethoxyphenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine
Combine 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dimethoxyphenyl)-3-(2-hydroxyethyl)pyrrolidine (0.43 g, 0.97 mmol), triethylamine (3.3 mL, 2.4 mmol), and anhydrous dichloromethane (30 mL). Cool the reaction mixture to -5° C. with an salt-ice bath. Slowly, add methanesulfonyl chloride (0.082 mL, 1.06 mmol) at such a rate that the temperature of the reaction mixture does not rise above 2° C. Warm to ambient temperature. After 18 hours, quench the reaction by the addition of ice. Separate the organic layer and extract 3 times with 1M hydrochloric acid solution and 2 times with a saturated solution of sodium bicarbonate. Dry the organic layer over Na2SO4, filter, and concentrate invacuo to obtain the title compound.

reactant | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dimethoxyphenyl)-3-(2-hydroxyethyl)pyrrolidine | 0.97 mmol, 0.43 g | COC1=C(C(=O)N2CC(CC2)(CCO)C2=CC(=C(C=C2)OC)OC)C=C(C=C1)N1N=NN=C1 | C23H27N5O5
reactant | triethylamine | 2.4 mmol, 3.3 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.06 mmol, 0.082 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dimethoxyphenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)OC)OC)C=C(C=C1)N1N=NN=C1 | C24H29N5O7S
